US07470680B2
N-(2-amino-3-fluorophenethyl)-1-benzylpiperidin-4-amine.
N-(3-Fluoro-2-nitrophenethyl)-1-benzylpiperidin-4-amine (800 mg, 2.238 mmol) was dissolved in methanol (30 mL). Platinum(IV) oxide (18.5 mg, 0.081 mmol) was added to the mixture. Reaction vessel was placed on a Parr apparatus and charged with 60 psi of hydrogen gas. Reaction shook at room temperature for 1 hour 20 minutes. Reaction was removed from the apparatus. Mixture was filtered through a 0.45 μm PVDF membrane. Filtrate was concentrated to dryness. Title compound was obtained as grey oil in 97% yield. MS (M+H)+=328.5.

reactant | N-(3-Fluoro-2-nitrophenethyl)-1-benzylpiperidin-4-amine | 2.238 mmol, 800 mg | FC=1C(=C(CCNC2CCN(CC2)CC2=CC=CC=C2)C=CC1)[N+](=O)[O-] | C20H24FN3O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 30 mL | CO | CH4O
catalyst | Platinum(IV) oxide | 0.081 mmol, 18.5 mg | [Pt](=O)=O
product | N-(2-amino-3-fluorophenethyl)-1-benzylpiperidin-4-amine | 97% yield | NC1=C(CCNC2CCN(CC2)CC2=CC=CC=C2)C=CC=C1F | C20H26FN3
